US05571833
After reaction of 2-chloro-3-methyl-4-nitroanisole (32.1 g, 159 mmol) with dimethylformamide dimethylacetal (22.6 g, 190 mmol) and pyrrolidine (13.4 g, 188 mmol) in DMF (150 ml) at 120°-140° C. for 1 hour under a slow current of nitrogen, the volatile components were removed under vacuum. To the residue was added dichloromethane (90 ml) and methanol (360 ml) and the solution was evaporated to about half its original volume by heating on a steam bath. After cooling, the solution was left refrigerated overnight to yield 2-nitro-5-methoxy-6-chloro-β-pyrrolidinostyrene as red crystals (33.9 g) m.p. 89°-92° C.

reactant | 2-chloro-3-methyl-4-nitroanisole | 159 mmol, 32.1 g | ClC1=C(C=CC(=C1C)[N+](=O)[O-])OC | C8H8ClNO3
reactant | dimethylformamide dimethylacetal | 190 mmol, 22.6 g | COC(N(C)C)OC | C5H13NO2
reactant | pyrrolidine | 188 mmol, 13.4 g | N1CCCC1 | C4H9N
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 2-nitro-5-methoxy-6-chloro-β-pyrrolidinostyrene | 33.9 g | [N+](=O)([O-])C1=C(C=CN2CCCC2)C(=C(C=C1)OC)Cl | C13H15ClN2O3
